US05691384
Combine 4-hydroxybenzophenone (8 kg, 57,6 mol), potassium carbonate (8 kg, 57.6 mol), and 1-bromo-4-chlorobutane (8.384 kg, 48.9 mol) in acetone (40 L). Heat to reflux. After 20 hours, cool the reaction mixture and filter. Rinse the filter cake with acetone and evaporate the filtrate in vacuo to obtain 4-(4-chlorobutoxy) benzophenone.

reactant | 4-hydroxybenzophenone | 57,6 mol, 8 kg | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | potassium carbonate | 57.6 mol, 8 kg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-4-chlorobutane | 48.9 mol, 8.384 kg | BrCCCCCl | C4H8BrCl
solvent | acetone | 40 L | CC(=O)C | C3H6O
product | 4-(4-chlorobutoxy) benzophenone | ClCCCCOC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C17H17ClO2
